US08309546B2
5-{8-[4-(Methylsulfonyl)piperazin-1-yl]-9-[(3S)-1-(methylsulfonyl)pyrrolidin-3-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
Dimethyl sulfoxide (1 ml) was added to 5-{8-chloro-9-[(3S)-1-(methylsulfonyl)pyrrolidin-3-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine (100 mg, 0.21 mmol) and N-mesylpiperazine (171 mg, 1.04 mmol) and the resulting mixture was stirred at 140° C. for 1 hour. The reaction mixture was partitioned with chloroform and water, the organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=19:1) to give the title compound (105 mg, 83%) as a light brown solid.

reactant | 5-{8-chloro-9-[(3S)-1-(methylsulfonyl)pyrrolidin-3-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.21 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)[C@@H]1CN(CC1)S(=O)(=O)C | C18H22ClN9O3S
reactant | N-mesylpiperazine | 1.04 mmol, 171 mg | S(=O)(=O)(C)N1CCNCC1 | C5H12N2O2S
solvent | Dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 5-{8-[4-(Methylsulfonyl)piperazin-1-yl]-9-[(3S)-1-(methylsulfonyl)pyrrolidin-3-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 105 mg, 83% | CS(=O)(=O)N1CCN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)[C@@H]1CN(CC1)S(=O)(=O)C | C23H33N11O5S2
